2190-01-19 10:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70yo male w/ NSCLC s/p RUL wedge, LLL wedge, LULectomy c/b recurr
   bronchopleural fistula. s/p RUL stent, LUL thoracotomy and BPF repair
   w/ pectoral flap. Transferred from OSH today for IP eval of LUL stent.
   Chronic resp failure s/p trach. In ICU due to vent dependence.
   24 Hour Events:
   Developed a regular SVT overnight w/ slight decr in BP. responded to
   IVF and IV metoprolol.
   Bronch'd last night w/ IP feeling that no intervention needed.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2190-1-18**] 05:00 PM
   Fentanyl - [**2190-1-18**] 05:00 PM
   Haloperidol (Haldol) - [**2190-1-18**] 09:00 PM
   Lorazepam (Ativan) - [**2190-1-19**] 04:00 AM
   Metoprolol - [**2190-1-19**] 06:35 AM
   Morphine Sulfate - [**2190-1-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-1-19**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 95 (90 - 155) bpm
   BP: 110/66(76) {99/50(62) - 140/72(87)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,220 mL
                                                                  2,003 mL
   PO:
             TF:
   IVF:
                                                                  1,100 mL
                                                                  1,873 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    845 mL
   Urine:
                                                                    300 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    920 mL
                                                                  1,158 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   PC : 18 cmH2O
   RR (Set): 10
   RR (Spontaneous): 20s
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: throughout), open L
   chest wound w/ no purulence, good granulation tissue
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   236 K/uL
   121 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.4 mEq/L
   41 mg/dL
   104 mEq/L
   144 mEq/L
   28.4 %
   12.3 K/uL
        [image002.jpg]
                             [**2190-1-18**]  11:59 AM
                             [**2190-1-19**]  03:08 AM
   WBC
   14.0
   12.3
   Hct
   32.0
   28.4
   Plt
   269
   236
   Cr
   0.9
   0.8
   Glucose
   114
   121
   Other labs: PT / PTT / INR:12.2/25.3/1.0, Differential-Neuts:78.7 %,
   Lymph:14.0 %, Mono:5.4 %, Eos:1.8 %, Albumin:3.0 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Imaging: CT Chest- open L chest wound; apical centrilobular emphysema,
   basilar subpleural honeycombing, diffusely increased ggo/ interstitial
   process
   Assessment and Plan
   70yo male w/ NSCLC s/p RUL wedge, LLL wedge, LULectomy c/b recurr
   bronchopleural fistula. s/p RUL stent, LUL thoracotomy and BPF repair
   w/ pectoral flap. Transferred from OSH yest for IP eval of LUL stent.
   Chronic resp failure s/p trach. In ICU due to vent dependence.
   1. Resp failure-
   -cont supp vent mgmt and pulm toilet/ trach care
   -per IP evaluation no intervention to be done here
   2. SVT- stable today
   -cont and up-titrate metoprolol, replete lytes
   -probably deserves echo at some point given age, risk factors for
   reaction
   3. Anxiety and pain-
   -palliate w/ MSO4 and low-dose Ativan as needed
   4. Gen care-
   -cont all transfer meds
   -cont tf per nutrition recs
   -heparin sc
   -PT/OT consult
   ICU Care
   Nutrition:
   Comments: ordering today
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2190-1-18**] 11:39 AM
   20 Gauge - [**2190-1-19**] 08:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   70 yo man with complicated history of chronic respiratory failure, s/p
   LULobectomy, persistent BPF, s/p muscle flap repairs.  CT chest
   yesterday shows that stent is occluding large airway that leads to
   fistula.  Decision made with IP and thoracic surgery here that it
   should be left in place.
   Exam notable for rhoncherous BS.  Patient awake alert following
   commands.
   A/P:
   Continue vent weaning and packing wound.
   Will return to [**Hospital **] rehab today.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2190-1-19**] 12:25 ------

2190-01-20 10:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70yo male w/ NSCLC s/p RUL wedge, LLL wedge, LULectomy c/b recurr
   bronchopleural fistula. s/p RUL stent, LUL thoracotomy and BPF repair
   w/ pectoral flap. Transferred from OSH yest for IP eval of LUL stent.
   Chronic resp failure s/p trach. In ICU due to vent dependence.
   24 Hour Events:
   no events. difficulty sleeping noted.
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-1-19**] 02:00 PM
   Lorazepam (Ativan) - [**2190-1-19**] 06:30 PM
   Haloperidol (Haldol) - [**2190-1-20**] 12:30 AM
   Morphine Sulfate - [**2190-1-20**] 06:40 AM
   Other medications:
   metoprolol, FeSO4, Peridex, Insulin, Colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-1-20**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 94 (89 - 115) bpm
   BP: 132/80(93) {101/55(67) - 163/83(100)} mmHg
   RR: 21 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  2,579 mL
                                                                  1,030 mL
   PO:
                  TF:
                                                                    204 mL
                                                                    630 mL
   IVF:
                                                                  1,865 mL
   Blood products:
   Total out:
                                                                  2,125 mL
                                                                    855 mL
   Urine:
                                                                  2,125 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    454 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   RR (Set): 10
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   236 K/uL
   121 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.4 mEq/L
   41 mg/dL
   104 mEq/L
   144 mEq/L
   28.4 %
   12.3 K/uL
        [image002.jpg]
                             [**2190-1-18**]  11:59 AM
                             [**2190-1-19**]  03:08 AM
   WBC
   14.0
   12.3
   Hct
   32.0
   28.4
   Plt
   269
   236
   Cr
   0.9
   0.8
   Glucose
   114
   121
   Other labs: PT / PTT / INR:12.2/25.3/1.0, Differential-Neuts:78.7 %,
   Lymph:14.0 %, Mono:5.4 %, Eos:1.8 %, Albumin:3.0 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   70yo male w/ NSCLC s/p RUL wedge, LLL wedge, LULectomy c/b recurr
   bronchopleural fistula. s/p RUL stent, LUL thoracotomy and BPF repair
   w/ pectoral flap. Transferred from OSH yest for IP eval of LUL stent.
   Chronic resp failure s/p trach. In ICU due to vent dependence.
   1. Resp failure-
   -cont supp vent mgmt and pulm toilet/ trach care
   -per IP evaluation no intervention to be done here
   2. SVT- stable today
   -cont and up-titrate metoprolol, replete lytes
   -probably deserves echo at some point given age, risk factors for
   reaction
   3. Anxiety and pain- some agitation
   -start Seroquel low dose schedule during day and hs for sleep asistance
   -palliate w/ MSO4 and low-dose Ativan as needed
   4. Gen care-
   -cont all transfer meds
   -cont tf per nutrition recs
   -heparin sc
   -PT/OT consult --> get OOB to chair today
   -Case Mgr consult for placement
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2190-1-20**] 05:10 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-1-18**] 11:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments: need to meet w/ Case Mgmt re: placement
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   70 yo man with COPD, LULobectomy, bronchopleural fistula.  [**Hospital **]
   rehab bed.
   o/e: patient confused
   persistent air leak.
   Lungs: decreased BS b/l
   CV: reg
   Abd: soft
   Ext: no edema
   A/P
   Chronic respiratory failure:  continue vent settings. Did not tolerate
   change to PSV.
   Await transfer to OSH.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2190-1-20**] 13:38 ------

2190-01-21 11:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   back to [**Hospital1 2428**] today
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-1-21**] 08:29 AM
   Lorazepam (Ativan) - [**2190-1-21**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-1-21**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 82 (79 - 116) bpm
   BP: 77/44(53) {77/42(53) - 146/100(104)} mmHg
   RR: 18 (16 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  2,623 mL
                                                                  1,104 mL
   PO:
                  TF:
                                                                  1,533 mL
                                                                    724 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    695 mL
   Urine:
                                                                  1,935 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    688 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 508) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   247 K/uL
   9.0 g/dL
   124 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.3 mEq/L
   26 mg/dL
   106 mEq/L
   146 mEq/L
   27.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2190-1-18**]  11:59 AM
                             [**2190-1-19**]  03:08 AM
                             [**2190-1-21**]  04:38 AM
   WBC
   14.0
   12.3
   11.4
   Hct
   32.0
   28.4
   27.9
   Plt
   [**Telephone/Fax (3) 11817**]
   Cr
   0.9
   0.8
   0.9
   Glucose
   114
   121
   124
   Other labs: PT / PTT / INR:12.2/25.3/1.0, Differential-Neuts:78.7 %,
   Lymph:14.0 %, Mono:5.4 %, Eos:1.8 %, Albumin:3.0 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 CARDIAC DYSRHYTHMIA OTHER
 BRONCHOPLEURAL FISTULA (BPF, AIR LEAK)
 RESPIRATORY FAILURE, CHRONIC
   A 70 year-old man with a history of NSCLC s/p multiple resections
   complicated by broncopleural fistulas and endobronchial stent placement
   presents now for stent removal.
   #  NSCLC s/p stent:  OSH physician feels that recurrent infections may
   be reduced by removal of stent.  He is now s/p multiple muscle flaps
   with the intention of fixing the fistulas.  CT/Bronchoscopy complete,
   no stent removal or intervention at this time.
   - Ongoing plan per IP
   # Chronic respiratory failure:  Patient remains intermittently vent
   dependent via tracheostomy since his last thoracotomy in [**7-29**].  He is
   currently on PCV  and appears comfortable on current settings.
   - continue ventilatory support at current settings.
   # PSVT: No recurrence
   - Consider Increasing PO metoprolol
   - O/P Echo per primary team
   # Leukocytosis:  WBC 14, up from 9 at the time of discharge.  Likely
   secondary to chronic fistula infections.
   - add-on differential
   - no abx for now
   - continue to monitor
   # Malnutrition:
   - resume glucerna at 65 cc/h after procedure
   # history of PE:  not currently anticoagulated
   # GERD:
   - continue pantoprazole
   # Anxiety and pain:
   - continue lorazepam, morphine, haloperidol PRN
   # Depression/insomnia: No success overnight with Ambien, Zyprexa,
   trazodone, Benadryl, haldol
   - Trial of Seroquel 25mg [**Hospital1 **] & QHS
   # FEN:  replete lytes prn / restart TF after procedure and free water
   flushes after procedure
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  Full, discussed with daughter
   # CONTACT:  [**First Name8 (NamePattern2) 7131**] [**Known lastname 9795**], daughter, HCP
   home: [**Telephone/Fax (1) 11770**]
   cell: [**Telephone/Fax (1) 11771**]
   # ICU CONSENT:  signed, in chart
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 3031**]
   [x] ICU/Transfer back to St. E
s/[**Hospital1 2428**] pending case management
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2190-1-21**] 03:54 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-1-18**] 11:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-01-21 11:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70yo male w/ NSCLC s/p RUL wedge, LLL wedge, LULectomy c/b recurr
   bronchopleural fistula. s/p RUL stent, LUL thoracotomy and BPF repair
   w/ pectoral flap. Transferred from OSH yest for IP eval of LUL stent.
   Chronic resp failure s/p trach. In ICU due to vent dependence.
   24 Hour Events:
   no events. transitioned to PSV today.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-1-21**] 08:29 AM
   Lorazepam (Ativan) - [**2190-1-21**] 08:31 AM
   Other medications:
   RISS, Metoprolol, FeSO4, MVI, Vit C, Zinc, Peridex, MgOx, Docusate,
   lansoprazole, Heparin, trazodone, Seroquel
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-1-21**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 82 (79 - 116) bpm
   BP: 77/44(53) {77/42(53) - 146/100(104)} mmHg
   RR: 18 (16 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  2,623 mL
                                                                  1,095 mL
   PO:
                  TF:
                                                                  1,533 mL
                                                                    715 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    695 mL
   Urine:
                                                                  1,935 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    688 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 508) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 10 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), open L chest wound
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed, lethargic but
   arousable
   Labs / Radiology
   9.0 g/dL
   247 K/uL
   124 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.3 mEq/L
   26 mg/dL
   106 mEq/L
   146 mEq/L
   27.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2190-1-18**]  11:59 AM
                             [**2190-1-19**]  03:08 AM
                             [**2190-1-21**]  04:38 AM
   WBC
   14.0
   12.3
   11.4
   Hct
   32.0
   28.4
   27.9
   Plt
   [**Telephone/Fax (3) 11817**]
   Cr
   0.9
   0.8
   0.9
   Glucose
   114
   121
   124
   Other labs: PT / PTT / INR:12.2/25.3/1.0, Differential-Neuts:78.7 %,
   Lymph:14.0 %, Mono:5.4 %, Eos:1.8 %, Albumin:3.0 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   70yo male w/ NSCLC s/p RUL wedge, LLL wedge, LULectomy c/b recurr
   bronchopleural fistula. s/p RUL stent, LUL thoracotomy and BPF repair
   w/ pectoral flap. Transferred from OSH yest for IP eval of LUL stent.
   Chronic resp failure s/p trach. In ICU due to vent dependence.
   1. Resp failure-
   -cont supp vent mgmt and pulm toilet/ trach care
   -per IP evaluation no intervention to be done here
   2. SVT- stable today
   -cont and up-titrate metoprolol, replete lytes
   -probably deserves echo at some point given age, risk factors for
   reaction
   3. Anxiety and pain- some agitation
   -start Seroquel low dose schedule during day and hs for sleep asistance
   -palliate w/ MSO4 and low-dose Ativan as needed
   4. Lethargy- likely due to hypotension from meds.
   -hold further meds this am
   -500cc NS bolus and monitor
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2190-1-21**] 03:54 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-1-18**] 11:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility if mental
   status and BP improved
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   70 yo man transferred to [**Hospital1 5**] for LULobectomy, persistent
   bronchopleural fistula and assessment of stent revision.
   Exam:  patient calm, breathing now on PSV 5/5
   Lungs: mild wheezes on right.
   CV: reg
   Abd: soft
   Ext: no edema
   a/p
   chronic respiratory failure:  weaned to PSV 5/5 and doing well
   chest wound:  continue dressing changes tid
   to transfer back to [**Hospital3 **] today.;
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2190-1-21**] 14:14 ------